US06331539B1
A solution of N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl) butyl]-4-nitro-1-benzenesulfonamide hydrochloride (0.38 g) in methanol (250 ml) was charged with a catalytic amount of 10% palladium on carbon (0.085 g). The reaction was placed under an atmosphere of hydrogen (50 psi; 3.44×105 Pa)) and shaken on a Parr apparatus for 2 hours. The reaction mixture was filtered and the solvent removed in vacuo. The solid product was recrystallized from 2-propanol to provide 0.34 g of N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-amino-1-benzenesulfonamide hydrochloride as an off white powder, m.p. 203.1-205.0° C. 1H NMR (300 MHz, DMSO-d6) δ 8.65 (very broad s, 2H), 8.21(d, J=8.0 Hz, 1H), 7.82 (m, 1H), 7.71 (t, J=7.7 Hz, 1H), 7.58 (t, J=7.7 Hz, 1H), 7.38 (d, J=8.7 Hz, 2H), 7.13 (t, J=5.9 Hz, 1H), 6.60 (d, J=8.7 Hz, 2H), 5.92 (broad s, 2H), 4.55 (t, J=7.6 Hz, 2H), 2.96 (t, J=7.6 Hz, 2H), 2.70 (q, J=6.4 Hz, 2H), 1.81 (m, 4H), 1.58-1.43 (m, 4H), 0.96 (t, J=7.4 Hz, 3H); IR (KBr) 3430, 3316, 3046, 2955, 2868, 2679, 1671, 1594, 1334, 1157, 1091, 851, 776, 759 cm−1; MS (EI) m/e 466.2145 (466.2151 calcd for C24H30N6O2S). Anal calcd for C24H30N6O2S*HCl: C, 57.30; H, 6.21; N, 16.71. Found: C, 57.36; H, 6.31; N, 16.21.

reactant | N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl) butyl]-4-nitro-1-benzenesulfonamide hydrochloride | 0.38 g | Cl.NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])CCCC
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium on carbon | 0.085 g | [Pd] | Pd
product | N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-amino-1-benzenesulfonamide hydrochloride | 0.34 g | Cl.NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC=C(C=C2)N)CCCC | InChI=1S/C24H30N6O2S.ClH/c1-2-3-10-21-29-22-23(19-8-4-5-9-20(19)28-24(22)26)30(21)16-7-6-15-27-33(31,32)18-13-11-17(25)12-14-18;/h4-5,8-9,11-14,27H,2-3,6-7,10,15-16,25H2,1H3,(H2,26,28);1H
